US07196107B2
1-[4-(benzyloxy)-3-methylphenyl]ethanone
A mixture of 4-hydroxy-3-methylacetophenone (5.0 g) in dry acetonitrile (50 ml) was treated with potassium carbonate (5.06 g) and benzyl bromide (3.96 ml) and the reaction mixture heated at 40° C. After 3 hours the reaction was allowed to cool and was concentrated. The residue was partitioned between water and ethyl acetate; the aqueous layer separated and extracted twice more with ethyl acetate. The organic solutions were combined and were dried with brine and over magnesium sulfate and concentrated to give the title compound as a colourless oil

reactant | 4-hydroxy-3-methylacetophenone | 5.0 g | CC1=C(C=CC(=C1)C(=O)C)O | C9H10O2
reactant | potassium carbonate | 5.06 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 3.96 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1-[4-(benzyloxy)-3-methylphenyl]ethanone | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C)=O)C | C16H16O2
